US04946843
A mixture of 1.26 parts of 2-chloropyrimidine, 3.6 parts of 4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperazine-ethanamine, 1.1 parts of sodium hydrogen carbonate and 64 parts of ethanol was stirred overnight at reflux temperature. The reaction mixture was evaporated and the residue was taken up in water. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (93:7 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in 2-propanol. The product was filtered off and dried, yielding 3.8 parts (64.3%) of N-[2-[-4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperazinyl]ethyl]-2pyrimidinamine ethanedioate(1:2); mp. 175.3° C. (compound 105).

reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperazine-ethanamine | C(C)OCCN1C(=NC=2C1=NC=CC2)CN2CCN(CC2)CCN | C17H28N6O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | C(C)O | C2H6O
product | N-[2-[-4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperazinyl]ethyl]-2pyrimidinamine ethanedioate | 64.3% | C(C(=O)O)(=O)O.C(C)OCCN1C(=NC=2C1=NC=CC2)CN2CCN(CC2)CCNC2=NC=CC=N2 | InChI=1S/C21H30N8O.C2H2O4/c1-2-30-16-15-29-19(26-18-5-3-6-22-20(18)29)17-28-13-11-27(12-14-28)10-9-25-21-23-7-4-8-24-21;3-1(4)2(5)6/h3-8H,2,9-17H2,1H3,(H,23,24,25);(H,3,4)(H,5,6)
